US04753941
The procedure is similar to that described in Example 1, but starting with 2-pyrazinecarboxylic acid (7.5 g), N,N'-carbonyldiimidazole (9.7 g) and 2-amino-7-chloro-1,8-naphthyridine (10.8 g). The insoluble product is separated by filtration, washed with tetrahydrofuran (3×50 cc) and then with water (300 cc) and dried in the air. The product is suspended in acetonitrile (100 cc), stirred for 1 hour at 25° C. and separated by filtration, and then dried at 50° C. under reduced pressure (0.07 kPa). N-(7-Chloro-1,8-naphthyridin-2-yl)-2-pyrazinecarboxamide (11.75 g), m.p. 308° C., is thereby obtained.

reactant | 2-pyrazinecarboxylic acid | 7.5 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 10.8 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-2-pyrazinecarboxamide | 11.75 g | ClC1=CC=C2C=CC(=NC2=N1)NC(=O)C1=NC=CN=C1 | C13H8ClN5O
